US03988339
Benzoyl chloride (0.4 mole) is added over 3 hours to a stirred mixture of potassium cyanide (0.6 mole) in 250 ml. of water and 7,8-dichloroisoquinoline (0.2 mole) maintained at 25° C. The mixture is stirred for one more hour, cooled and filtered. The product is recrystallized from ethanol and dried to yield 2-benzoyl-7,8-dichloro-1-cyano-1,2,dihydroisoquinoline.

reactant | Benzoyl chloride | 0.4 mole | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | potassium cyanide | 0.6 mole | [C-]#N.[K+]
reactant | 7,8-dichloroisoquinoline | 0.2 mole | ClC1=CC=C2C=CN=CC2=C1Cl | C9H5Cl2N
solvent | water | O | H2O
product | 2-benzoyl-7,8-dichloro-1-cyano-1,2,dihydroisoquinoline | C(C1=CC=CC=C1)(=O)N1C(C2=C(C(=CC=C2C=C1)Cl)Cl)C#N | C17H10Cl2N2O
